US07981903B2
4,4-dimethyl-6-(methyloxy)-7-nitro-3,4-dihydro-2(1H)-quinolinone (250 mg, 1.00 mmol) was dissolved in ethyl acetate (10 mL) and transferred to a Fischer Porter apparatus. 10% Palladium on carbon (250 mg, Aldrich) was added followed by methanol (20 mL) and the mixture stirred under 60 psi hydrogen pressure for 16 h. The pressure was released, the reaction vessel evacuated, and back-filled with nitrogen twice. The mixture was filtered through celite and the filtrate was concentrated to provide 7-amino-4,4-dimethyl-6-(methyloxy)-3,4-dihydro-2(1H)-quinolinone (213 mg, 0.92 mmol, 92%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.16 (s, 6 H), 2.22 (s, 2 H), 3.72 (s, 3 H), 4.66 (s, 2 H), 6.20 (s, 1 H), 6.67 (s, 1 H), 9.76 (s, 1 H).

reactant | 4,4-dimethyl-6-(methyloxy)-7-nitro-3,4-dihydro-2(1H)-quinolinone | 1.00 mmol, 250 mg | CC1(CC(NC2=CC(=C(C=C12)OC)[N+](=O)[O-])=O)C | C12H14N2O4
reactant | methanol | 20 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | 250 mg | [Pd] | Pd
product | 7-amino-4,4-dimethyl-6-(methyloxy)-3,4-dihydro-2(1H)-quinolinone | 0.92 mmol, 213 mg, 92% | NC1=C(C=C2C(CC(NC2=C1)=O)(C)C)OC | C12H16N2O2
